US08067619B2
3-(4-Chloro-benzoyl)-4-methyl-2-oxo-2H-chromene-7-carbonitrile (Compound #3)
To a solution of 4-methyl-2-oxo-2H-chromene-7-carbonitrile (170 mg, 0.918 mmol) in dry THF (5 mL) at −20° C. was added drop wise 1.0 M LiHMDS solution in THF (1 mL). After 30 minutes 4-chloro-benzoyl chloride (160 μL) was added slowly and the reaction mixture was stirred for 1 hour. The reaction mixture was then quenched with saturated aqueous ammonium chloride (10 mL) and extracted with ethyl acetate (50 mL). The organic layer was separated and dried over sodium sulfate, then concentrated and purified on silica gel eluted with 30% ethyl acetate in hexanes to yield the title compounds as a white foam and a white solid, respectively.

reactant | 4-methyl-2-oxo-2H-chromene-7-carbonitrile | 0.918 mmol, 170 mg | CC1=CC(OC2=CC(=CC=C12)C#N)=O | C11H7NO2
reactant | LiHMDS | 1.0 M | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | 4-chloro-benzoyl chloride | 160 μL | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 3-(4-Chloro-benzoyl)-4-methyl-2-oxo-2H-chromene-7-carbonitrile | ClC1=CC=C(C(=O)C=2C(OC3=CC(=CC=C3C2C)C#N)=O)C=C1 | C18H10ClNO3
